US04042697
1. 2-Methyl-6(2-Phthalimidoethoxy)isoquinolinium bromide
6-Hydroxy-2-methylisoquinolinium bromide (2.4 g.), sodium carbonate (5 g.) and phthalimidoethyl bromide (2.6 g.) in acetonitrile (100 ml) were heated under reflux for 9 days. The mixture was filtered hot and the filtrate evaporated to give an oily solid. It was washed with chloroform, and light petroleum ether (b.p. 40°-60°) was added to give an oil that solidified on trituration, m.p. 165°-169°.

reactant | 6-Hydroxy-2-methylisoquinolinium bromide | 2.4 g | [Br-].OC=1C=C2C=C[N+](=CC2=CC1)C
reactant | sodium carbonate | 5 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | phthalimidoethyl bromide | 2.6 g | C1(C=2C(C(N1CCBr)=O)=CC=CC2)=O | C10H8BrNO2
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 2-Methyl-6(2-Phthalimidoethoxy)isoquinolinium bromide | [Br-].C[N+]1=CC2=CC=C(C=C2C=C1)OCCN1C(C=2C(C1=O)=CC=CC2)=O | InChI=1S/C20H17N2O3.BrH/c1-21-9-8-14-12-16(7-6-15(14)13-21)25-11-10-22-19(23)17-4-2-3-5-18(17)20(22)24;/h2-9,12-13H,10-11H2,1H3;1H/q+1;/p-1
